US07563888B2
(4-Methoxybenzylidene)-(4-{[(4-methoxybenzylidene)amino]methyl}-phenyl)amine
430 ml of toluene and 40 ml (349 mmol) of 99% pure 4-aminobenzylamine are introduced into a four-neck flask with mechanical paddle stirrer, water trap and reflux condenser. A two-phase mixture is obtained owing to the low solubility of the amine. 96 ml (775 mmol) of 98% pure anisaldehyde are added, and the mixture is heated with an oil bath heated to 140° C. In the heating-up phase, the reaction mixture starts to boil at around 80° C., and cloudy water/toluene azeotrope distills into the water trap. After about 30 min, the maximum internal temperature is 114° C., and only clear toluene now distills over. 12.5 ml of water (corresponding to about 100% of theory of the two equivalents of water) separate out. A TLC check (plate deactivated by previously standing in NEt3(triethylamine) vapor-saturated tank, ethyl acetate/n-heptane 1:1 plus 1% NEt3) indicates complete conversion of the 4-aminobenzylamine. The mixture is actively cooled to room temperature. A mixture of 800 ml of n-heptane and 200 ml of ethyl acetate is then run slowly in, during which, after addition of only about 200 ml, a pale yellow precipitate separates out spontaneously. The mixture is stirred for 1 h, and the precipitate is filtered off with suction and dried under HV. Yield: 105.6 g.

reactant | toluene | 430 ml | C1(=CC=CC=C1)C | C7H8
reactant | 4-aminobenzylamine | 349 mmol, 40 ml | NC1=CC=C(CN)C=C1 | C7H10N2
reactant | anisaldehyde | 775 mmol, 96 ml | COC=1C=CC(=CC1)C=O | C8H8O2
reactant | water | 12.5 ml | O | H2O
reactant | water | two equivalents | O | H2O
reactant | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
solvent | n-heptane | 800 ml | CCCCCCC | C7H16
solvent | NEt3 | CCN(CC)CC | C6H15N
solvent | ethyl acetate n-heptane | C(C)(=O)OCC.CCCCCCC
product | (4-Methoxybenzylidene)-(4-{[(4-methoxybenzylidene)amino]methyl}-phenyl)amine | COC1=CC=C(C=NC2=CC=C(C=C2)CN=CC2=CC=C(C=C2)OC)C=C1 | C23H22N2O2
